data/oMe_Silver.jsonl
{"reaction_id": "NR-100_1-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Haloform Reaction","reactants_smiles": ["C(=O)(C)c1ccc(C(F)(F)F)cc1","BrBr","[OH-]"],"products_smiles": ["C(=O)(O)c1ccc(C(F)(F)F)cc1","C(Br)(Br)Br"],"conditions": "Br2, NaOH","mechanism_step_nums": 10,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Strong base deprotonates the acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(CBr)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The electron-rich enolate α-carbon attacks electrophilic Br2, favored by the polarization of the Br–Br bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=CBr)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Base again deprotonates the remaining α-hydrogen, which is more acidic due to the inductive effect of the bromine substituent."},{"step": 4,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(Br)Br)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The enolate formed attacks Br2, with electron withdrawal by the first bromine accelerating further halogenation."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(=C(Br)Br)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Further deprotonation occurs as the α-hydrogen acidity increases with two bromines inductively withdrawing electron density."},{"step": 6,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(Br)(Br)Br)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The highly activated enolate rapidly undergoes electrophilic bromination to give the tribromomethyl ketone."},{"step": 7,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(O)(C(Br)(Br)Br)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Hydroxide attacks the carbonyl carbon, favored by the strong electrophilicity from the adjacent tribromomethyl group."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(O)c1ccc(C(F)(F)F)cc1.[C-](Br)(Br)Br","step_weight": 0,"rationale": "The tetrahedral intermediate collapses, expelling the tribromomethyl anion, a good leaving group stabilized by three bromines."},{"step": 9,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Br)(Br)Br.C(=O)([O-])c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The tribromomethyl anion abstracts a proton from water or solvent due to its strong basicity, forming bromoform."},{"step": 10,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(O)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The carboxylate intermediate is protonated under workup conditions to yield the carboxylic acid product."}],"description": "In basic conditions, the methyl ketone undergoes sequential α-bromination via enolate intermediates, driven by the electron-withdrawing carbonyl and strong electrophilicity of Br2. Complete halogenation facilitates nucleophilic attack by hydroxide, leading to cleavage and formation of carboxylate and bromoform as stable products."}
